US08563723B2
3-Bromo-5-chloro-phenol
Under an atmosphere of dry nitrogen, 103 mg 1,5-cyclooctadiene(H5-indenyl)iridium (I) was put in a 25 mL Pyrex bottle. Subsequently were added 0.04 mL 1,2-bis(dimethylphosphino)ethane, 0.61 mL 3-bromochlorobenzene and 1.52 mL pinacolborane. The mixture was stirred at 150° C. for 3.5 h. After cooling to room temperature, the borane adduct was taken up in 17 mL acetone to give a clear solution. This solution was added slowly to 17.41 mL of a 0.30 M solution of oxone in water cooled in an ice bath. The mixture was stirred vigorously for 15 min. at room temperature and extracted three times with DCM. The combined organic phases were dried over Na2SO4 and evaporated to dryness. The residue was purified by flash chromatography (DCM) to yield 750 mg (62%) of a beige solid. 1H NMR complies with known data (compound (I), Maleczka, 2003).

reactant | 1,2-bis(dimethylphosphino)ethane | 0.04 mL | CP(CCP(C)C)C | C6H16P2
reactant | 3-bromochlorobenzene | 0.61 mL | BrC=1C=C(C=CC1)Cl | C6H4BrCl
reactant | pinacolborane | 1.52 mL | [B]1OC(C(O1)(C)C)(C)C | C6H12BO2
reactant | borane | B | BH3
reactant | oxone | OOS(=O)[O-].[K+]
solvent | acetone | 17 mL | CC(=O)C | C3H6O
solvent | water | O | H2O
catalyst | 1,5-cyclooctadiene(H5-indenyl)iridium (I) | 103 mg | C1/C=C\CC/C=C\C1.C1=C[C]2[C]([CH][CH][CH]2)C=C1.[Ir]
product | 3-Bromo-5-chloro-phenol | 750 mg, 62% | BrC=1C=C(C=C(C1)Cl)O | C6H4BrClO
